US04555572
A mixture of 30 g of 3-chloro-4-methoxyaniline, 18.9 g of 2,6-dichloro-3-nitrobenzoic acid, and 150 ml N,N-dimethylaniline was heated at 100° under nitrogen for 24 hours. The reaction mixture was dissolved in chloroform and washed with dilute ammonium hydroxide. After the aqueous layer was washed with chloroform, it was acidified and the resulting orange solid was collected to provide 6-chloro-2[(3-chloro-4-methoxyphenyl)amino]-3-nitrobenzoic acid, mp 222°-228° C.

reactant | 3-chloro-4-methoxyaniline | 30 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
reactant | 2,6-dichloro-3-nitrobenzoic acid | 18.9 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | N,N-dimethylaniline | 150 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-2[(3-chloro-4-methoxyphenyl)amino]-3-nitrobenzoic acid | ClC1=CC=C(C(=C1C(=O)O)NC1=CC(=C(C=C1)OC)Cl)[N+](=O)[O-] | C14H10Cl2N2O5
